US09428452B2
N-(2,4-dimethylphenyl)-3,5-difluoro-N-isobutyl-4-(oxiran-2-yl)benzenesulfonamide
To a solution of N-(2,4-dimethylphenyl)-3,5-difluoro-N-isobutyl-4-vinylbenzenesulfonamide (1.5 g, 3.95 mmol) in dichloromethane (DCM) at 0° C. was added meta-chloroperoxybenzoic acid (mCPBA) (2.73 g, 15.81 mmol) and the reaction mixture stirred for 24 hours from 0° C. to 25° C. Additional mCPBA (1.364 g, 7.91 mmol) was then added and the reaction stirred for a further 6 hours. The reaction was then washed with water (2 mL), sodium hydroxide solution (2M, 2 mL) and brine (2 mL), then evaporated in vacuo. The crude was purified by flash silica (Si) chromatography (0-100% dichloromethane-cyclohexane gradient). The appropriate fractions were combined and evaporated in vacuo to give the required product, 926 mg, as a yellow oil. LCMS [LCMS2] Rt. 1.45, m/z (ES+) 396 (M+H).

reactant | N-(2,4-dimethylphenyl)-3,5-difluoro-N-isobutyl-4-vinylbenzenesulfonamide | 3.95 mmol, 1.5 g | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC(=C(C(=C1)F)C=C)F)CC(C)C | C20H23F2NO2S
reactant | meta-chloroperoxybenzoic acid | 15.81 mmol, 2.73 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | mCPBA | 7.91 mmol, 1.364 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2,4-dimethylphenyl)-3,5-difluoro-N-isobutyl-4-(oxiran-2-yl)benzenesulfonamide | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC(=C(C(=C1)F)C1OC1)F)CC(C)C | C20H23F2NO3S
